US08008307B2
Step h: (1S,2S,4R)-4-[(6-Chloropyrimidin-4-yl)amino]-2-(hydroxymethyl)cyclopentanol
A neat mixture of 6-chloro-N-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]pyrimidin-4-amine (120. mg, 0.332 mmol) and (S)-(+)-1-aminoindan (0.170 mL, 1.33 mmol) was heated to 180° C. for 6 h in a sealed tube using MWI. The reaction was purified via silica gel chromatography eluting with a gradient of 0 to 15% MeOH in DCM to afford the title compound (33.1 mg, 41%). LC/MS: Rt=0.90 min, ES+ 244 (AA standard).

reactant | 6-chloro-N-[(4aS,6R,7aS)-2-(4-methoxyphenyl)-hexahydrocyclopenta[d][1,3]dioxin-6-yl]pyrimidin-4-amine | 0.332 mmol | ClC1=CC(=NC=N1)N[C@@H]1C[C@@H]2[C@@H](OC(OC2)C2=CC=C(C=C2)OC)C1 | C18H20ClN3O3
reactant | (S)-(+)-1-aminoindan | 1.33 mmol, 0.170 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
product | (1S,2S,4R)-4-[(6-Chloropyrimidin-4-yl)amino]-2-(hydroxymethyl)cyclopentanol | 33.1 mg, 41% | ClC1=CC(=NC=N1)N[C@@H]1C[C@H]([C@H](C1)O)CO | C10H14ClN3O2
